US07169761B2
Acetic anhydride (0.3 ml) was added to a solution of (1S)-1,5-anhydro-1-[3-(azulen-2-ylmethyl)phenyl]-D-glucitol (0.24 g) in pyridine (5.0 ml) at room temperature and the mixture was stirred for 15 hours. The reaction mixture was diluted with ethyl acetate. The diluted solution was washed with 10% aqueous solution of hydrochloric acid, saturated aqueous solution of sodium hydrogencarbonate, and saturated brine in that order and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated. The residue was purified by silica gel column chromatography (n-hexane-ethyl acetate) to obtain (1S)-2,3,4,6-tetra-O-acetyl-1,5-anhydro-1-[3-(azulen-2-ylmethyl)phenyl]-D-glucitol (0.34 g).

reactant | Acetic anhydride | 0.3 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | (1S)-1,5-anhydro-1-[3-(azulen-2-ylmethyl)phenyl]-D-glucitol | 0.24 g | C1=C(C=C2C=CC=CC=C12)CC=1C=C(C=CC1)[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C23H24O5
solvent | pyridine | 5.0 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (1S)-2,3,4,6-tetra-O-acetyl-1,5-anhydro-1-[3-(azulen-2-ylmethyl)phenyl]-D-glucitol | 0.34 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)C1=CC(=CC=C1)CC1=CC2=CC=CC=CC2=C1 | C31H32O9
